US08232427B2
Step 4: N-isoamyl-N-(3 Methoxyphenylsulfonyl)D-tert-leucine
To a solution of N-isoamyl-N-(3 Methoxyphenylsulfonyl)D-tert-leucine benzyl ester (2.0 g, 4.33 mmol) in MeOH (12 ml) is added 10% palladium on carbon (200 mg) and the reaction is stirred under ambient pressure of hydrogen for 4 hours. The reaction is filtered through celite and concentrated affording the title compound (1.6 g, 99%).

reactant | N-isoamyl-N-(3 Methoxyphenylsulfonyl)D-tert-leucine benzyl ester | 4.33 mmol, 2.0 g | C(C1=CC=CC=C1)OC([C@H](N(S(=O)(=O)C1=CC(=CC=C1)OC)CCC(C)C)C(C)(C)C)=O | C25H35NO5S
reactant | hydrogen | [H][H] | H2
solvent | MeOH | 12 ml | CO | CH4O
catalyst | palladium on carbon | 200 mg | [Pd] | Pd
product | N-isoamyl-N-(3 Methoxyphenylsulfonyl)D-tert-leucine | 1.6 g, 99% | C(CC(C)C)N([C@H](C(C)(C)C)C(=O)O)S(=O)(=O)C1=CC(=CC=C1)OC | C18H29NO5S
